US05171854
7-Phenylacetamido-3-[(Z)-2-cyclopropylvinyl]-3-cephem-4-carboxylic acid
12.5 g (0.0227 mmol) of benzhydryl 7-phenylacetamido-3-[(Z)-2-cyclopropyl-vinyl]-3-cephem-4-carboxylate are dissolved in 23 ml of methylene chloride with the addition of 7.2 ml of anisole, the solution is cooled to 0° C. and 23 ml of trifluoroacetic acid are added. The mixture is stirred at 0° C. for 30 minutes and 46 ml of water are then added. 400 ml of diisopropyl ether are subsequently added to he reaction solution and the mixture is stirred at 0° C. for 30 minutes. The product which has crystallized out is filtered off with suction and washed with diisopropyl ether.

reactant | benzhydryl 7-phenylacetamido-3-[(Z)-2-cyclopropyl-vinyl]-3-cephem-4-carboxylate | 0.0227 mmol, 12.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C2CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H30N2O4S
reactant | trifluoroacetic acid | 23 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 46 ml | O | H2O
reactant | diisopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 23 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 7.2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-Phenylacetamido-3-[(Z)-2-cyclopropylvinyl]-3-cephem-4-carboxylic acid | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C2CC2)C(=O)O)C1=O | C20H20N2O4S
